US08003796B2
Preparation of isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-ylthio)piperidine-1-carboxylate
Example 39 was prepared according to procedures described in Example 3 substituting tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-ylthio)piperidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate. 1H NMR (500 MHz, CDCl3) δ 8.09 (d, J=8.80 Hz, 2H), 7.62 (d, J=8.80 Hz, 2H), 7.22 (d, J=7.70 Hz, 1H), 6.66 (d, J=1.65 Hz, 1H), 6.27 (dd, J=7.42, 1.92 Hz, 1H), 4.88-5.00 (m, 1H), 4.04 (app brs, 2H), 3.47-3.58 (m, 1H), 3.12-3.17 (m, 2H), 3.11 (s, 3H), 2.08-2.16 (m, 2H), 1.61-1.73 (m, 2H), 1.26 (d, J=6.05 Hz, 6H). MS (ESI) 451 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-ylthio)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O5S2
reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
product | isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-ylthio)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)SC1CCN(CC1)C(=O)OC(C)C)=O | C21H26N2O5S2
